US06583135B2
tert-Butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.606 g, 1.63 mmol) is dissolved in MeOH (20 mL) and 1N NaOH (2.44 mL, 2.44 mmol, 1.5 equiv.) is added. The resulting solution is stirred at rt for 3 h. The reaction mixture is concentrated and the residue is partitioned between EtOAc (50 mL) and 10% aqueous citric acid (30 mL). The layers are separated and the aqueous layer is extracted with EtOAc (25 mL). The combined organic layers are washed with water (2×15 mL) and brine (15 mL), dried over MgSO4, filtered and concentrated. Crude (3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetic acid (0.566 g) is obtained in quantitative yield. 1H NMR (300 MHz, CDCl3) δ 1.49, 2.92-2.96, 3.00-3.04, 3.67-3.79, 4.83, 7.14, 7.19-7.20, 7.49; MS (ESI−) for C19H24N2O4 m/z 343.1 (M−H)−.

reactant | tert-Butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.63 mmol, 0.606 g | C(C)OC(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C21H28N2O4
reactant | NaOH | 2.44 mmol, 1N, 2.44 mL, 1.5 equiv. | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (3-(tert-butoxycarbonyl)-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetic acid | 0.566 g, quantitative yield | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CC(=O)O | C19H24N2O4
